US06127414
(a) Nα -Boc-Nδ -Cbz-(R)-ornithine o-nitrophenyl ester
A solution Nα -Boc-Nδ -Cbz-(R)-ornithine (25.0 g; 68.2 mmol) and o-nitrophenol (19.0 g; 136.4 mmol) in pyridine (250 mL) was cooled to 0° C. Dicyclohexylcarbodiimide (13.4 g; 64.8 mmol) was added at 0° C. The solution was stirred at 0° C. for several hours, warmed to room temperature and stirred overnight. The resulting heterogeneous solution was diluted with EtOAc and filtered. The filtrate was concentrated under reduced pressure to afford a thick oil. The oil was dissolved in a minimal amount of warm isopropanol and stirred. The resultant precipitate was collected via vacuum filtration and washed with isopropanol, then diethyl ether. Concentration of the isopropanol/ether filtrate and crystallization from isopropanol provided a second crop. The combined product was dissolved in EtOAc at room temperature and filtered. Concentration of the EtOAc gave the sub-title compound as a solid.

reactant | Nα -Boc-Nδ -Cbz-(R)-ornithine | 68.2 mmol, 25.0 g | C(=O)(OC(C)(C)C)N[C@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C18H26N2O6
reactant | o-nitrophenol | 136.4 mmol, 19.0 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | Dicyclohexylcarbodiimide | 64.8 mmol, 13.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 250 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | Nα -Boc-Nδ -Cbz-(R)-ornithine o-nitrophenyl ester | [N+](=O)([O-])C1=C(C=CC=C1)OC([C@H](NC(=O)OC(C)(C)C)CCCNC(=O)OCC1=CC=CC=C1)=O | C24H29N3O8
